Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
muscle weakness, dark urine, elevated CK
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo M with history Meniere's disease who 
presents with weakness and elevated CK. 
.
He has been feeling increased fatigue over the past year, but 
was generally well until 6 days PTA, when he noted weakness in 
his legs while waterskiing for almost an hour. He felt much 
weaker in his legs after the exercise, but eventually felt 
better and continued to exercise (jogging 1 mi, slow upper-body 
rowing for 1 hr) more than his baseline over the next few days. 
3d PTA, he noted muscle cramping in his inner thighs, persistent 
weakness and stiffness, and amber/brown urine.  He drank more 
water, saw his PCP, who stopped his HCTZ/Triamterene and had 
labs ___.  Urine temporarily cleared but amber/brown urine 
returned the following day, at which point PCP's labs returned 
with an elevated CK of 65,000 with a normal chem panel, and he 
was instructed to come to the ED for further workup and 
management of possible rhabdomyolysis. 
.
Of note, his home dose of diuretic was doubled ~1 month ago for 
a Menieres flare, returned to old dose 1 week ago. 
.  
In the ED initial VS were T 98.4, HR 90, BP 133/90, RR 16, Sat 
100% RA. His CK was 93,000. He was given 1L NS and 1L D5W with 3 
amps bicarb and transferred to the floor for further management. 

.  
ROS:  
(+) Per HPI. + Pressure headaches unilateral, without N/V or 
waking from sleep. + h/o congestion and "head heaviness" a few 
weeks ago, resolved. +exposure to baby with viral illness a few 
weeks prior to onset of symptoms.
(-) Denies fever, chills, syncope, chest pain, cough, 
rhinorrhea, nausea, vomiting, diarrhea, constipation, 
parasthesias. All other review of systems negative.  
 
Past Medical History:
Meniere's disease 
 
Social History:
___
Family History:
Father: MI age ___  
Grandfather: CAD  
Uncle: CAD  
Grandmother: DM ___  
Cousin: ___ Aunt: ___ 
Cousin: ___ disease
 
Physical Exam:
VS:  T 96.3, ___, BP 143/98, RR 18, O2 99% RA
Gen: well appearing, NAD  
HEENT: PERRLA, EOMI, no ptosis MMM,
Neck: supple,  no LAD or thyromegaly
CV: RRR S1 S2 no R/G/M  
Chest: CTAB. No CVAT. 
Abd: soft,+mild tenderness to palpation along R lateral costal 
margin, nondistended, normoactive bowel sounds, no HSM or 
masses. 
Ext: no edema or tenderness to palpation, DP 2+ bilaterally. 
Neuro: Patient alert, interactive. CN ___ intact and 
symmetric bilaterally. Strength ___ in UEs, 4+/5 R hip flexion 
and hip adduction, ___ L hip flexion and adduction, ___ in hip 
abduction, knee flex/extension, plantar/dorsiflexion. Reflexes 
3+ L patellar, 2+ R patellar, 1+ ankle bilaterally, toes 
down-going bilaterally. Sensation to light touch grossly intact 
bilaterally in all extremities.
 
Pertinent Results:
___ 04:00PM   ALT(SGPT)-196* AST(SGOT)-762* LD(LDH)-2232* 
___ ALK PHOS-46 TOT BILI-0.8
___ 04:00PM   UREA N-13 CREAT-1.2 SODIUM-145 POTASSIUM-3.3 
CHLORIDE-100 TOTAL CO2-31 ANION GAP-17
___ 04:00PM   ALBUMIN-4.4 CALCIUM-9.4 PHOSPHATE-3.5 
MAGNESIUM-2.3
___ 04:48PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:48PM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 07:45PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 07:45PM URINE  ___ BACTERIA-OCC YEAST-NONE 
___ 07:45PM   WBC-7.9 RBC-4.87 HGB-14.4 HCT-41.0 MCV-84 
MCH-29.5 MCHC-35.1* RDW-13.3
___ 07:45PM   PLT COUNT-288
___ 07:45PM   NEUTS-66.3 ___ MONOS-3.7 EOS-2.3 
BASOS-0.8
___ 07:45PM   TSH-3.9
___ 07:45PM   ___
___ 07:45PM   GLUCOSE-88 UREA N-11 CREAT-0.9 SODIUM-137 
POTASSIUM-3.1* CHLORIDE-99 TOTAL CO2-28 ANION GAP-13
___ 09:45PM   ALT(SGPT)-360* AST(SGOT)-1167* ___ 
___ ALK PHOS-44 TOT BILI-1.0
 
Brief Hospital Course:
#. Rhabdomyolysis:  Most likely multifactorial, including trauma 
(waterskiing), exertion (increased exercise recently), possibly 
predisposing chronic hypokalemia and recent hypotension in 
setting of diuretic use. CK was very elevated at 93K on 
admission with a low potassium but otherwise normal chem panel 
and UA notable only for RBCs.  His diuretic was held and he was 
given aggressive IVF with bicarbonate.  CK, LDH, ALT, AST levels 
trended down (CK at discharge was 22K), and he transitioned to 
aggressive PO fluids. Throughout admission, renal function was 
stable(Cr 0.9-1.0), there was no evidence of compartment 
syndrome, and potassium remained low (3.1-3.8). EKG was 
unchanged from prior. 
  Regarding work-up for possible etiologies of rhabdomyolysis, 
his serum tox and urine tox screens were negative; CMV panel was 
consistent with cleared prior infection; CRP was normal at 2.8 
and ___ was negative; TSH was normal at 3.9, lactate was 
elevated at 2.0 but nonspecific. Neuro was consulted for recs on 
additional workup of rhabdo etiologies and recommended 
Acylcarnitine, Carnitine, Pyruvate labs and neuromuscular 
follow-up for possible EMG or muscle biopsy. He was discharged 
home with potassium supplement packets and labs follow-up for 
___. Carnitine, Pyruvate, EBV, Lyme panels were pending at the 
time of discharge. 
.  
# Hypokalemia: his hypokalemia was unexpected given his 
rhabdomyolysis. K was repleted as needed. Further work-up of 
hypokalemia/additional causes of renal potassium wasting such as 
channelopathy, Bartter or Gitelman's syndromes, or 
hyperaldosteronism were considered but deferred for outpatient 
care.
.
# Anxiety: patient became increasingly anxious about his health 
over the course of the hospitalization, in the setting of 
multiple recent stressors at work and in medical settings. At 
his request, he was started on Bupropion 150mg daily and was 
discharged with lorazepam 0.5mg Q4-6h PRN anxiety.
.
#. Meinere's: home dose of HCTZ/Triamterene was held throughout 
the admission as above and patient was discharged without 
restarting it, with instructions to follow up with his PCP. 
 
Medications on Admission:
HCTZ/Triamterene 25 mg /37.5 mg daily (stopped by PCP one week 
prior to admission)
 
Discharge Medications:
1. Bupropion HCl 150 mg Tablet Sustained Release 24 hr Sig: One 
(1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*1*
2. Lorazepam 0.5 mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for anxiety.
Disp:*10 Tablet(s)* Refills:*0*
3. Potassium Chloride 20 mEq Packet Sig: Two (2) packet PO once 
a day for 4 days.
Disp:*8 packets* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Rhabdomyolysis
Secondary: Meniere's Disease, diuretic use, anxiety
 
Discharge Condition:
Good. Good. afeb VSS, CV/lung/abd benign. Neuro exam with ___ 
strength in all extremities. Mental status clear but anxious. 
Ambulatory without assistance. 
 
Discharge Instructions:
It was a pleasure taking care of you at ___. 
.
You were admitted to the hospital with weakness and an injury to 
your muscles called rhabdomyolysis.  You were given many liters 
of intravenous fluids and fluids by mouth to prevent 
complications from rhabdomyolysis. The markers of kidney 
function remained stable throughout your hospitalization, 
showing that you did not develop problems from your 
rhabdomyolysis. After listening to your concerns about your 
level of stress from your current illness and other recent 
medical problems, we started a medication called bupriopion 
(Wellbutrin) to help you feel better. We also gave you a 
medication called lorazepam (Ativan) to take when you have 
higher levels of anxiety. Do NOT take this medication if you are 
driving or doing dangerous activities as it can make you very 
sleepy. 
.
Your markers of rhabdomyolysis went down, there was no 
significant change in the markers of your kidney function, and 
you were sent home for follow-up with your hospital doctor, your 
primary care physician, and the ___ clinic.  
.
Please continue to stay well-hydrated and take your medications 
as prescribed. 
.
We made the following changes to your medication:
STARTED Bupropion ER (also called Wellbutrin) 150mg by mouth 
daily
STARTED Lorazepam (also called Ativan) 0.5mg tablets, ___ 
tablets by mouth every ___ hours as needed for anxiety
STARTED Potassium Chloride supplements, 2 packets by mouth daily 
for 4 days
STOP taking hydrochlorothiazide and triamterene for the time 
being. 
 
Followup Instructions:
___